US05919793
Sodium borohydride (28.4 mg) was added to a solution of 3-[2-(3-formyl-4-(2-methoxyethoxy)phenyl)ethynyl]quinuclidin-3-ol in methanol at 0° C. The mixture was allowed to warm to ambient temperature and stirred for 1.5 hours. The reaction mixture was poured onto water (15 ml) and the mixture extracted with ethyl acetate (3×20 ml). The ethyl acetate extracts were combined, washed with brine solution (20 ml), dried (MgSO4) and evaporated. The residue was dissolved in acetonitrile (5 ml) and diethylether was added to give, on cooling, a solid (262 mg). This solid was further purified by crystallisation from acetonitrile to give 3-[2-(2-hydroxymethyl-4-(2-methoxyethoxy)phenyl)ethynyl]quinuclidin-3-ol (217 mg) as a solid, m.p. 98.5-100.0° C.; microanalysis, found C, 67.5%; H, 7.7%, N, 6.9%, C19H25NO4 0.8CH3CN requires: C, 67.9%; H, 7.6%; N, 6.9%; NMR(CDCl3): 1.40(1H,m), 1.65(1H,m), 2.0(3H,s), 2.05(3H,m), 2.8(4H,t), 3.03(1H,d), 3.28(1H,d), 3.45(3H,s), 3.75(2H,t), 4.13(2H,t), 4.72(2H,s), 6.78(1H,m), 7.05(1H,d) and 7.3(1H,t); m/z 332(M+H).

reactant | Sodium borohydride | 28.4 mg | [BH4-].[Na+]
reactant | 3-[2-(3-formyl-4-(2-methoxyethoxy)phenyl)ethynyl]quinuclidin-3-ol | C(=O)C=1C=C(C=CC1OCCOC)C#CC1(CN2CCC1CC2)O | C19H23NO4
reactant | methanol | CO | CH4O
product | 3-[2-(2-hydroxymethyl-4-(2-methoxyethoxy)phenyl)ethynyl]quinuclidin-3-ol | 217 mg | OCC1=C(C=CC(=C1)OCCOC)C#CC1(CN2CCC1CC2)O | C19H25NO4
